US08378092B2
5.3) 1-Benzylsulfanyl-3-bromo-2-chloro-benzene (Intermediate 16)
To stirred phenyl-methanethiol (14.8 g, 119.36 mmol) in 175 ml DMF was added Cs2CO3 (38.89 g, 119.36 mmol) under argon. After 10 min 1-bromo-2-chloro-3-fluoro-benzene (25 g, 119.36 mmol) in 25 ml DMF was added and stirring was continued overnight at RT and then 3 h at 80° C. After cooling the mixture was diluted with ethyl acetate/water and washed subsequently with 1 N HCl and brine. The organic layer was dried with MgSO4, filtered and evaporated. Purification by chromatography on silica gel yielded 22 g (59%) as an amorphous, colorless solid.

reactant | phenyl-methanethiol | 119.36 mmol, 14.8 g | C1(=CC=CC=C1)CS | C7H8S
reactant | Cs2CO3 | 119.36 mmol, 38.89 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromo-2-chloro-3-fluoro-benzene | 119.36 mmol, 25 g | BrC1=C(C(=CC=C1)F)Cl | C6H3BrClF
solvent | DMF | 175 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 1-Benzylsulfanyl-3-bromo-2-chloro-benzene | C(C1=CC=CC=C1)SC1=C(C(=CC=C1)Br)Cl | C13H10BrClS
